US07528129B2
18b) (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-[4-(6-hydroxy-2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-4-oxo-butanoic acid
A solution of 144 mg (6.00 mmol) LiOH in 15 mL water was added to a solution of 2.30 g (4.04 mmol) methyl(S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-[4-(6-hydroxy-2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-4-oxo-butanoate in 30 mL THF and the reaction mixture was stirred for 1 h at RT. The organic solvent was eliminated i.vac., the residue was diluted with 50 mL water and acidified with 1 M HCl. The precipitate formed was filtered, washed with 10 mL water and dried at 50° C.

reactant | LiOH | 6.00 mmol, 144 mg | [Li+].[OH-]
reactant | methyl(S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-[4-(6-hydroxy-2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-4-oxo-butanoate | 4.04 mmol, 2.30 g | NC1=C(C=C(C[C@H](C(=O)OC)CC(=O)N2CCC(CC2)N2C(NC3=CC=C(C=C3C2)O)=O)C=C1C(F)(F)F)Cl | C26H28ClF3N4O5
reactant | HCl | 1 M | Cl | ClH
solvent | water | 15 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-[4-(6-hydroxy-2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-4-oxo-butanoic acid | NC1=C(C=C(C[C@H](C(=O)O)CC(=O)N2CCC(CC2)N2C(NC3=CC=C(C=C3C2)O)=O)C=C1C(F)(F)F)Cl | C25H26ClF3N4O5
